US07994171B2
4-Fluoro-2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyridazin-4-yl)-cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide.
To a mixture of 3-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid (0.050 g, 0.114 mmol, 1.0 eq), 1-(pyridazin-4-yl)cyclopropanamine HCl (0.015 g, 0.113 mmol, 1.0 eq) in DMF at 0° C. was added TEA (0.060 g, 0.594 mmol, 5.0 eq) and BOP reagent (0.076 g, 0.172 mmol, 1.5 eq). The reaction mixture was stirred at RT. overnight. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by preparative HPLC. Yield: 0.030 g (50.0%). 1H NMR (400 MHz, CDCl3): δ 9.03 (d, J=5.6 Hz, 1H), 8.98 (m, 1H), 8.01-7.98 (m., 2H), 7.81-7.78 (dd, J=2.0, 8.0 Hz, 1H), 7.73 (d, J=2 Hz, 1H), 7.44 (d, J=8.4, 2H), 7.28-7.26 (dd, 1H), 7.23-7.18 (m, 3H), 7.08 (s, 1H), 6.20 (bs, 1H), 3.04 (d, J=5.2 Hz, 3H), 2.29 (s, 3H), 1.61-1.54 (m, 4H). 19F NMR (376.57 MHz, CDCl3): δ−109.53, −119.52. LCMS: (ES+) m/z=539.2 (M+H)+

reactant | 3-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | 0.114 mmol, 0.050 g, 1.0 eq | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=2C=C(C(=O)O)C=CC2C | C24H17F2NO4
reactant | 1-(pyridazin-4-yl)cyclopropanamine HCl | 0.113 mmol, 0.015 g, 1.0 eq | Cl.N1=NC=C(C=C1)C1(CC1)N
reactant | BOP reagent | 0.172 mmol, 0.076 g, 1.5 eq | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Fluoro-2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyridazin-4-yl)-cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C2=C(C=CC(=C2)C(NC2(CC2)C2=CN=NC=C2)=O)C | C31H24F2N4O3
